US08791123B2
A mixture of ethyl 5-((2R,5S)-2-(5-fluoropyridin-3-yl)-5-(hydroxymethyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylate (0.250 g, 0.649 mmol) and 2M sodium hydroxide (3.24 mL, 6.48 mmol) in MeOH (10 mL) was stirred at ambient temperature for 4 days followed by 50° C. for 5 hours. The reaction was cooled to ambient temperature and 4M HCl in dioxane (1.78 mL, 7.14 mmol) was added. The mixture was concentrated and the residue was purified by reverse phase column chromatography (0-40% acetonitrile/water) to afford 5-((2R,5S)-2-(5-fluoropyridin-3-yl)-5-(hydroxymethyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (210 mg, 90% yield) as a white solid. MS (apci) m/z=358.0 (M+H).

reactant | ethyl 5-((2R,5S)-2-(5-fluoropyridin-3-yl)-5-(hydroxymethyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylate | 0.649 mmol, 0.250 g | FC=1C=C(C=NC1)[C@@H]1N([C@@H](CC1)CO)C1=NC=2N(C=C1)N=CC2C(=O)OCC | C19H20FN5O3
reactant | sodium hydroxide | 6.48 mmol, 2M, 3.24 mL | [OH-].[Na+]
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 7.14 mmol, 1.78 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | 10 mL | CO | CH4O
product | 5-((2R,5S)-2-(5-fluoropyridin-3-yl)-5-(hydroxymethyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 210 mg, 90% yield | FC=1C=C(C=NC1)[C@@H]1N([C@@H](CC1)CO)C1=NC=2N(C=C1)N=CC2C(=O)O | C17H16FN5O3
